US04631286
3,4-Dihydro-9-(methylamino)acridin-1(2H)-one
In 150 ml of dichloromethane and 100 ml of 50% NaOH were added 5.00 g of 9-amino-3,4-dihydroacridin-1(2H)-one and 0.80 g (0.1 eq) of tetrabutylammonium hydrogensulfate. The biphasic mixture was mechanically stirred for 0.5 hour and thereafter 4.4 ml (3 eq) of CH3I was added. The reaction mixture was stirred overnight. Analysis of the reaction mixture indicated that the starting material was completely consumed. The reaction mixture was poured into cold water and the dichloromethane layer was evaporated, dried over MgSO4 and filtered through alumina and the solvent was evaporated to afford a solid. The solid was recrystallized from dichloromethane/hexanes to yield 3.73 g (70%) of crystalline product after drying, melting point 116°-117° C.

reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | 9-amino-3,4-dihydroacridin-1(2H)-one | 5.00 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C13H12N2O
reactant | CH3I | 4.4 ml, 3 eq | CI | CH3I
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogensulfate | 0.80 g, 0.1 eq | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3,4-Dihydro-9-(methylamino)acridin-1(2H)-one | 3.73 g, 70% | CNC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C14H14N2O
